US04988689
A mixture of 7.6 parts of 3-(2-bromoethyl)-2H-1-benzopyran-2-one, 6.0 parts of 3-[(5-methyl-2-furanyl)methyl]-N-(3-pyrrolidinyl)-3H-imidazo-[4,5-b]pyridin-2-amine, 8.4 parts of sodium hydrogen carbonate, 0.1 parts of potassium iodide and 160 parts of ethanol was stirred for 4 hours at reflux temperature. After cooling to room temperature, the precipitated product was filtered off and the filtrate was evaporated. The residue was stirred in ethyl acetate. The precipitate was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, hexane, methanol and ammonium hydroxide (45:45:9:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in 2-propanone. The salt was filtered off and crystallized twice from ethanol. The product was filtered off, washed with ethanol and dried in vacuo at 50° C., yielding 3 parts (25.6%) of 3-[ 2-[3-[[3-[(5-methyl-2-furanyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-pyrrolidinyl]ethyl]-2H-1-benzopyran-2-one (E)-2-butenedioate(1:1); mp. 194.2° C. (compound 130).

reactant | 3-(2-bromoethyl)-2H-1-benzopyran-2-one | BrCCC=1C(OC2=C(C1)C=CC=C2)=O | C11H9BrO2
reactant | 3-[(5-methyl-2-furanyl)methyl]-N-(3-pyrrolidinyl)-3H-imidazo-[4,5-b]pyridin-2-amine | CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CNCC2 | C16H19N5O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[ 2-[3-[[3-[(5-methyl-2-furanyl)methyl]-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-pyrrolidinyl]ethyl]-2H-1-benzopyran-2-one (E)-2-butenedioate | 25.6% | C(\C=C\C(=O)O)(=O)O.CC1=CC=C(O1)CN1C(=NC=2C1=NC=CC2)NC2CN(CC2)CCC=2C(OC1=C(C2)C=CC=C1)=O | InChI=1S/C27H27N5O3.C4H4O4/c1-18-8-9-22(34-18)17-32-25-23(6-4-12-28-25)30-27(32)29-21-11-14-31(16-21)13-10-20-15-19-5-2-3-7-24(19)35-26(20)33;5-3(6)1-2-4(7)8/h2-9,12,15,21H,10-11,13-14,16-17H2,1H3,(H,29,30);1-2H,(H,5,6)(H,7,8)/b;2-1+
